US07402672B2
3-(3-Chloro-phenylsulfanyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid amide, Ic-5
Treat 1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid amide 6c-1 (1.0 equiv) in DMF (100 mL) with bis-(3-chlorophenyl)disulfide (1.0 equiv) as described above in General Procedure IVb to give Ic-5 as an ivory solid: 1H NMR (DMSO-d,) δ 12.8 (bs, 1H), 8.87 (s, 1H), 8.2 (d, J=5.3 Hz, 1H) overlapping with 8.17 (bs, 1H), 7.82 (bs, 1H), 7.41 (d, J=5.4 Hz, 1H), 7.2 (m, 2H), 7.05 (s, 1H), 6.95 (d, J=7.3 Hz, 1H); m/z=304 (M+H).

reactant | 1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid amide | N1C(=CC=2C1=CN=CC2)C(=O)N | C8H7N3O
reactant | bis-(3-chlorophenyl)disulfide | 1.0 equiv | ClC=1C=C(C=CC1)SSC1=CC(=CC=C1)Cl | C12H8Cl2S2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-(3-Chloro-phenylsulfanyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid amide | ClC=1C=C(C=CC1)SC1=C(NC2=CN=CC=C21)C(=O)N | C14H10ClN3OS
